US08609847B2
(3) Preparation of 4-[6-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}-2-oxo-3,4-dihydroquinolin-1(2H)-yl]benzonitrile (Compound No. 1)
A suspension of (2R)-6-[3-(2-methylpyrrolidin-1-yl)propoxy]-3,4-dihydroquinolin-2(1H)-one prepared in Example 1-(2) (0.20 g), 4-iodobenzonitrile (0.18 g), rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.041 g), copper iodide (0.013 g) and cesium carbonate (0.45 g) in N,N-dimethylformamide (2 mL) was stirred at 100° C. for 16 hours. The reaction mixture was diluted with water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by preparative TLC (on a single plate of 2 mm thickness, developing solvent: chloroform/methanol=9/1) and NH-type preparative TLC (on two plates of 0.25 mm thickness, developing solvent: n-hexane/ethyl acetate=1/1) to give the titled compound (0.062 g, 23%) as a light-brown amorphous substance.

reactant | (2R)-6-[3-(2-methylpyrrolidin-1-yl)propoxy]-3,4-dihydroquinolin-2(1H)-one | C[C@H]1N(CCC1)CCCOC=1C=C2CCC(NC2=CC1)=O | C17H24N2O2
reactant | 4-iodobenzonitrile | 0.18 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.041 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | copper iodide | 0.013 g | [Cu](I)I
product | 4-[6-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}-2-oxo-3,4-dihydroquinolin-1(2H)-yl]benzonitrile | 0.062 g, 23% | C[C@H]1N(CCC1)CCCOC=1C=C2CCC(N(C2=CC1)C1=CC=C(C#N)C=C1)=O | C24H27N3O2
